US06710056B2
2-Methoxy-5-(thiophene-2-yl)benzoic acid:
Lithium hydroxide (43 mg) was added to methyl 2-Methoxy-5-(thiophene-2-yl)benzoate (102 mg) in a solvent mixture of tetrahydrofuran/methanol/water (2/1/1, 3 ml), and they were stirred overnight. The solvent was evaporated, and the residue was added to 3 N hydrochloric acid. The white solid thus precipitated was taken by the filtration as the title compound.

reactant | Lithium hydroxide | 43 mg | [OH-].[Li+]
reactant | methyl 2-Methoxy-5-(thiophene-2-yl)benzoate | 102 mg | COC1=C(C(=O)OC)C=C(C=C1)C=1SC=CC1 | C13H12O3S
solvent | toluene ethanol water | 3 ml | C1(=CC=CC=C1)C.C(C)O.O
product | 2-Methoxy-5-(thiophene-2-yl)benzoic acid | COC1=C(C(=O)O)C=C(C=C1)C=1SC=CC1 | C12H10O3S
